US09255089B2
4-((2,6-difluorophenyl)(hydroxy)(pyrazin-2-yl)methyl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one
n-BuLi (0.21 mL, 0.33 mmol) was added dropwise to a solution of 2,2,6,6-tetramethylpiperidine (0.06 mL, 0.33 mmol) in THF (0.7 mL) at 0° C. and was allowed to stir for 5 minutes. Pyrazine (24 mg, 0.3 mmol) in THF (0.4 mL) was added and the reaction was stirred for an additional 5 minutes and then cooled to −78° C. tert-butyl 4-(2,6-difluorobenzoyl)-6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazole-1-carboxylate (50 mg, 0.10 mmol) in THF (0.4 mL) was added, the solution was allowed to stir for 5 minutes and then quenched with water. Solution was extracted three times with EtOAc, washed once with brine and concentrated. Crude was purified by reverse-phase HPLC and then taken up in EtOH (3 mL) and HCl (0.1 mL) and heated to 65° C. for 2 hours. Reaction was cooled and concentrated to afford desired product as a pale brown powder.

reactant | n-BuLi | 0.33 mmol, 0.21 mL | [Li]CCCC
reactant | 2,2,6,6-tetramethylpiperidine | 0.33 mmol, 0.06 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | Pyrazine | 0.3 mmol, 24 mg | N1=CC=NC=C1 | C4H4N2
reactant | tert-butyl 4-(2,6-difluorobenzoyl)-6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazole-1-carboxylate | 0.10 mmol, 50 mg | FC1=C(C(=O)C2=CC(=CC=3N(C(=NC32)OCC)C(=O)OC(C)(C)C)C=3C(=NOC3C)C)C(=CC=C1)F | C26H25F2N3O5
solvent | THF | 0.7 mL | C1CCOC1 | C4H8O
solvent | THF | 0.4 mL | C1CCOC1 | C4H8O
solvent | THF | 0.4 mL | C1CCOC1 | C4H8O
product | 4-((2,6-difluorophenyl)(hydroxy)(pyrazin-2-yl)methyl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one | FC1=C(C(=CC=C1)F)C(C1=CC(=CC=2NC(NC21)=O)C=2C(=NOC2C)C)(C2=NC=CN=C2)O | C23H17F2N5O3
